US08809331B2
Step 2: 6,7-dibromo-8-nitro-2,3-dihydrobenzo[b][1,4]dioxine-5-carboxylic acid
A 20-mL round bottom flask was charged with 6,7-dibromo-2,3-dihydrobenzo[b][1,4]dio-xine-5-carboxylic acid (3.0 g, 0.61 mmol) and acetic acid (2 mL). The mixture was heated to 37° C., following by the addition of a solution of nitric acid (d=1.49, 1.0 mL), acetic acid (1.0 mL) and concentrated sulfuric acid (1.0 mL). After heating at 50° C. for 1 h, the mixture was poured in cold water while stirring. It was then filtered and the solid was washed with water to afforded the title compound (1.91 g, 83%). LCMS: ESI (3 minute run), m/z=382 [M+1]+; Retention time: 1.05 minute.

reactant | 6,7-dibromo-2,3-dihydrobenzo[b][1,4]dio-xine-5-carboxylic acid | 0.61 mmol, 3.0 g | BrC1=C(C2=C(OCCO2)C=C1Br)C(=O)O | C9H6Br2O4
reactant | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
reactant | nitric acid | 1.0 mL | [N+](=O)(O)[O-] | HNO3
reactant | acetic acid | 1.0 mL | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 1.0 mL | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 6,7-dibromo-8-nitro-2,3-dihydrobenzo[b][1,4]dioxine-5-carboxylic acid | 1.91 g, 83% | BrC1=C(C2=C(OCCO2)C(=C1Br)[N+](=O)[O-])C(=O)O | C9H5Br2NO6
